US04254260
A solution of 3-acetoxymethyl-7-(2-aminothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid (2 g.) and potassium 1-methyl-1H-tetrazole-5-thiolate (0.7 g.) in pH 6.4 phosphate buffer (50 ml.) was stirred for 4 hours with continuous introduction of nitrogen gas while the reaction mixture was kept to pH 6.4 to 7 with sodium bicarbonate. After the reaction, the reaction mixture was cooled and then filtered. The filtrate was adjusted to pH 2.5 with diluted hydrochloric acid under ice-cooling, and the precipitates were collected by filtration and then purified similarly as that of Example 6 to give light brown powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-aminothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid (1.05 g.).

reactant | 3-acetoxymethyl-7-(2-aminothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CN=C(S2)N)=O)=O | C15H16N4O6S2
reactant | potassium 1-methyl-1H-tetrazole-5-thiolate | 0.7 g | CN1N=NN=C1[S-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | phosphate | 50 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-aminothiazol-5-yl)acetamido-3-cephem-4-carboxylic acid | 1.05 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CN=C(S2)N)=O)=O | C15H16N8O4S3
